US08633173B2
1-(3-{8-[4-(Dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-phenyl)-4-ethyl-piperazin-2-one was prepared from 2-chloro-8-[4-(dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine (100.0 mg, 0.3271 mmol) and 1-(3-amino-phenyl)-4-ethyl-piperazin-2-one (79.0 mg, 0.360 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (28.0 mg, 0.0512 mmol) as the ligand in a manner analogous to Example 2d. MP=205-207° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.48 (d, J=6.6 Hz, 1H), 8.13 (d, J=7.9 Hz, 2H), 7.92-7.85 (m, 2H), 7.68 (s, 1H), 7.63 (d, J=7.2 Hz, 1H), 7.44 (d, J=8.0 Hz, 1H), 7.37 (t, J=8.2 Hz, 1H), 7.04-6.97 (m, 2H), 6.93 (d, J=7.5 Hz, 1H), 3.80-3.75 (m, 2H), 3.35 (s, 2H), 2.88-2.83 (m, 2H), 2.57 (q, J=7.0 Hz, 2H), 1.80 (s, 3H), 1.77 (s, 3H), 1.18 (t, J=7.0 Hz, 3H). MS=489 (MH)+.

reactant | 2-chloro-8-[4-(dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine | 0.3271 mmol, 100.0 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)P(=O)(C)C)=N1 | C14H13ClN3OP
reactant | 1-(3-amino-phenyl)-4-ethyl-piperazin-2-one | 0.360 mmol, 79.0 mg | NC=1C=C(C=CC1)N1C(CN(CC1)CC)=O | C12H17N3O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0512 mmol, 28.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | 1-(3-{8-[4-(Dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-phenyl)-4-ethyl-piperazin-2-one | CP(=O)(C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=C(C=CC2)N2C(CN(CC2)CC)=O)C | C26H29N6O2P
